US07528129B2
23d) (S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid
Prepared analogously to Example 7g from 7.83 g (13.1 mmol) methyl(S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate and 1.25 g (52.2 mmol) LiOH.

reactant | methyl(S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate | 13.1 mmol, 7.83 g | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)OC | C35H41N3O6
reactant | LiOH | 52.2 mmol, 1.25 g | [Li+].[OH-]
product | (S)-2-(4-benzyloxy-3-methoxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)OC | C34H39N3O6
